US04533731
The same procedures for preparing 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole as described in Example 89 were repeated except that 1-(1-methyl-3-bromopropyl)-dimethylamine hydrobromide and 3-amino-5-chloroindazole were employed instead of the 3-bromopropyldiethylamine hydrobromide and the 3-amino-4-chloroindazole, respectively. As a result, 1-(3-dimethylaminobutyl)-3-amino-5-chloroindazole was obtained.

reactant | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
reactant | 3-amino-5-chloroindazole | NC1=NNC2=CC=C(C=C12)Cl | C7H6ClN3
reactant | 3-bromopropyldiethylamine hydrobromide | Br.BrCCCN(CC)CC
reactant | 3-amino-4-chloroindazole | NC1=NNC2=CC=CC(=C12)Cl | C7H6ClN3
product | 1-(3-dimethylaminobutyl)-3-amino-5-chloroindazole | CN(C(CCN1N=C(C2=CC(=CC=C12)Cl)N)C)C | C13H19ClN4
